US07595327B2
To a solution of 3-{methyl-[4-(quinolin-2-ylmethoxy)-benzenesulfonyl]-amino}-bicyclo[2.2.1]heptane-2-carboxylic acid (125 mg, 0.268 mmol) in DMF (1 mL) were added EDCI (103 mg, 0.536 mmol), HOBT (72.5 mg, 0.536 mmol) and hydroxylamine (50% in water, 82 μL, 1.34 mmol) at room temperature. The mixture was stirred for 20 h, diluted with ethyl acetate (5 mL), and washed with water (3×3 mL) and brine (3 mL). The organic layer was concentrated and the residue was purified by RP-HPLC to give (1R,2S,3R,4S)-N-hydroxy-3-(methyl{[4-(quinolin-2-ylmethoxy)phenyl]sulfonyl}amino)bicyclo[2.2.1]heptane-2-carboxamide (50% yield). MS (ESI) [M+H] 482.2

reactant | 3-{methyl-[4-(quinolin-2-ylmethoxy)-benzenesulfonyl]-amino}-bicyclo[2.2.1]heptane-2-carboxylic acid | 0.268 mmol, 125 mg | CN(C1C(C2CCC1C2)C(=O)O)S(=O)(=O)C2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C25H26N2O5S
reactant | EDCI | 0.536 mmol, 103 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.536 mmol, 72.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydroxylamine | 1.34 mmol, 82 μL | NO | H3NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (1R,2S,3R,4S)-N-hydroxy-3-(methyl{[4-(quinolin-2-ylmethoxy)phenyl]sulfonyl}amino)bicyclo[2.2.1]heptane-2-carboxamide | 50% yield | ONC(=O)[C@H]1[C@@H]2CC[C@H]([C@H]1N(S(=O)(=O)C1=CC=C(C=C1)OCC1=NC3=CC=CC=C3C=C1)C)C2 | C25H27N3O5S
